US09233985B2
A stirred solution of diallyl adipate (4.53 g, 20 mmol) in anhydrous tetrahydrofuran (100 mL) was cooled to 0° C. and treated with lithium bis(trimethylsilyl)amide (40 mL, 1.0 N in THF, 40 mmol). After the addition was complete, the solution was warmed to room temperature and stirred for 2 h. The solution was then recooled to 0° C. and treated with acetic acid (2.53 mL, 44 mmol) in a dropwise manner. The turbid mixture was warmed to room temperature and filtered. The filtrate was concentrated, dissolved in minimal dichloromethane and purified by flash column chromatography (silica gel, dichloromethane) to afford allyl 2-oxocyclopentanecarboxylate (2.62 g, 78%) as a colorless oil. Characterization data is same as that observed from method A.

reactant | diallyl adipate | 20 mmol, 4.53 g | C(CCCCC(=O)OCC=C)(=O)OCC=C | C12H18O4
reactant | lithium bis(trimethylsilyl)amide | 40 mmol, 1.0 N, 40 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | acetic acid | 44 mmol, 2.53 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | allyl 2-oxocyclopentanecarboxylate | 2.62 g, 78% | O=C1C(CCC1)C(=O)OCC=C | C9H12O3
